US06177452B1
Sodium borohydride(95 mg) was added to a tetrahydrofuran(60 ml)-2-propanol(30 ml) solution of ethyl 2-(4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]-2-oxoacetate(2.93 g) at 0° C. After stirring for 30 minutes, the reaction mixture was poured into ice water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried(MgSO4). The solvent was evaporated to give ethyl 2-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]-2-hydroxyacetate(2.20 g, 75%). This was recrystallized from acetone-ethyl acetate to give colorless prisms. mp 197-198° C. (degradation)

reactant | Sodium borohydride | 95 mg | [BH4-].[Na+]
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | ethyl 2-(4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]-2-oxoacetate | 2.93 g | ClC1=CC=C(C=C1)C=1N=C(OC1C(C(=O)OCC)=O)N1C(=NC=C1)C | C17H14ClN3O4
solvent | 2-propanol | 30 ml | CC(C)O | C3H8O
product | ethyl 2-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]-2-hydroxyacetate | 2.20 g, 75% | ClC1=CC=C(C=C1)C=1N=C(OC1C(C(=O)OCC)O)N1C(=NC=C1)C | C17H16ClN3O4
